US04513005
A stirred mixture of undecyl-triphenyl-phosphonium bromide (45.7 g), methanol (300 ml) and 2M sodium hydroxide solution (300 ml) was heated at 50° C. for 3 hours and then concentrated under vacuum until the oily product solidified. The solid was washed with water, dried and recrystallised from petroleum spirit to give diphenyl-undecylphosphine oxide, m.p. 69° C.

reactant | undecyl-triphenyl-phosphonium bromide | 45.7 g | [Br-].C(CCCCCCCCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium hydroxide | 2M, 300 ml | [OH-].[Na+]
solvent | methanol | 300 ml | CO | CH4O
product | diphenyl-undecylphosphine oxide | C1(=CC=CC=C1)P(CCCCCCCCCCC)(C1=CC=CC=C1)=O | C23H33OP
